US07459448B2
8-Chloro-3-methyl-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (iv-i)
To a solution of 8-chloro-3-methyl-2,5-dioxo-2,3,4,5-tetrahydro-1H-benzo[b]azepine-4-carboxylic acid methyl ester (iii-i) (0.2 g, 0.7 mmol) in DMF (2 mL) was added H2O (0.3 mL) and the reaction mixture heated to 230° C. in a microwave reactor for 5 minutes. H2O (20 mL) was added to the reaction mixture and the resulting precipitate was filtered and washed with H2O. The solid was dried under reduced pressure at 40° C. for 16 h to afford iv-i (0.12 g, 77%) as a white solid: MS m/z═224 (M+H).

reactant | 8-chloro-3-methyl-2,5-dioxo-2,3,4,5-tetrahydro-1H-benzo[b]azepine-4-carboxylic acid methyl ester | 0.7 mmol, 0.2 g | COC(=O)C1C(C2=C(NC(C1C)=O)C=C(C=C2)Cl)=O | C13H12ClNO4
reactant | H2O | 0.3 mL | O | H2O
reactant | H2O | 20 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 8-Chloro-3-methyl-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(C(CC2=O)C)=O)C1 | C11H10ClNO2
